US05547952
Example 8 2-(4-Acetoxy-3,5-di-tert.-butylbenzylidene)-3,4-dihydro-3-oxo-4(1H-tetrazol-5-ylmethyl)-2H-1,4-benzothiazine (compound No. 8-1)
Acetic anhydride (5.8 ml) and triethylamine (2.1 ml) were added to 2-(3,5-di-tert.-butyl-4-hydroxybenzylidene)-3,4-dihydro-3-oxo-4-(1H-tetrazol-5-ylmethyl)-2H-1,4-benzothiazine (compound No. 2-1, 0.32 g) and the mixture was refluxed overnight. To the mixture, dilute hydrochloric acid was added and the whole was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue was purified by silica gel column chromatography to give the titled compound.

reactant | Acetic anhydride | 5.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(3,5-di-tert.-butyl-4-hydroxybenzylidene)-3,4-dihydro-3-oxo-4-(1H-tetrazol-5-ylmethyl)-2H-1,4-benzothiazine | C(C)(C)(C)C=1C=C(C=C2SC3=C(N(C2=O)CC2=NN=NN2)C=CC=C3)C=C(C1O)C(C)(C)C | C25H29N5O2S
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-Acetoxy-3,5-di-tert.-butylbenzylidene)-3,4-dihydro-3-oxo-4(1H-tetrazol-5-ylmethyl)-2H-1,4-benzothiazine | C(C)(=O)OC1=C(C=C(C=C2SC3=C(N(C2=O)CC2=NN=NN2)C=CC=C3)C=C1C(C)(C)C)C(C)(C)C | C27H31N5O3S
